US06884892B2
(2S,3S)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol
Trimethyloxosulfonium iodide (17.7 g, 80.6 mmol) was dissolved in a mixed solvent of dimethyl sulfoxide (80 ml) and tetrahydrofuran (30 ml) and the mixture was cooled to 0-5° C. Sodium hydride (60% dispersion in oil, 2.47 g, 61.9 mmol) was added by small portions at 0-5° C. After generation of hydrogen stopped, the mixture was aged for 1.5 hr, and a solution (20 ml) of (2S)-2′,4′-difluoro-2-hydroxypropiophenone (10.0 g, 53.8 mmol) in dimethyl sulfoxide was added dropwise at −5 to 5° C. over 3.5 hr. After confirmation of the completion of the reaction by HPLC analysis, 1,2,4-triazole (12.8 g, 185.7 mmol) and potassium carbonate (14.8 g, 107.6 mmol) were added and the mixture was heated at an internal temperature of 90-93° C. for 2 hr. After confirmation of the completion of the addition reaction by HPLC analysis, water (200 ml) was flown in and the mixture was extracted 3 times with ethyl acetate (100 ml). The layers extracted with ethyl acetate were mixed, washed twice with water (100 ml) and dried over anhydrous magnesium sulfate. After filtration, the filtrate (ethyl acetate solution) was concentrated. The obtained oil (13.5 g) was washed successively with a mixed solvent of ethyl acetate (10 ml) and n-heptane (30 ml) and then with a mixed solvent of ethyl acetate (5 ml) and n-heptane (10 ml), after which dispersion crystallized from methyl tert-butyl ether (20 ml). Filtration and drying gave the title compound as white crystals (2.25 g). The filtrate was concentrated, and the obtained concentrate (8.03 g) was subjected to HPLC quantitative determination analysis. As a result, 4.76 g of the title compound was contained. The total yield was 48.5%. The HPLC analysis conditions were the same as in Example 1 (retention time: 7.5 min).

reactant | Trimethyloxosulfonium iodide | 80.6 mmol, 17.7 g | [I-].C[S+](=O)(C)C
reactant | Sodium hydride | 61.9 mmol, 2.47 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | (2S)-2′,4′-difluoro-2-hydroxypropiophenone | 53.8 mmol, 20 ml, 10.0 g | FC1=C(C=CC(=C1)F)C([C@H](C)O)=O | C9H8F2O2
reactant | 1,2,4-triazole | 185.7 mmol, 12.8 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 107.6 mmol, 14.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | (2S,3S)-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol | 2.25 g, yield was 48.5% | FC1=C(C=CC(=C1)F)[C@](CN1N=CN=C1)([C@H](C)O)O | C12H13F2N3O2
